US08084466B2
Step B: 4-[3-(6-Chloro-5hydroxymethyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester.
To a 0° C. solution of 1-[3-(1-tert-butoxycarbonyl-piperidin-4-yl)-propyl]-6-chloro-1H-indole-5-carboxylic acid methyl ester (1.10 g, 2.53 mmol) in toluene (20 mL) was added diisobutylaluminum hydride (1 M in hexanes; 5.06 mL, 5.06 mmol) dropwise. The mixture was stirred for 1 h. Additional diisobutylaluminum hydride (1 M in hexanes; 5.06 mL, 5.06 mmol) was added. After 1 h, the mixture was diluted at rt with satd. aq. NaHCO3 (2 mL), MeOH (5 mL), CHCl3 (10 mL), and satd. aq. sodium potassium tartrate (10 mL). The mixture was stirred vigourously until the layers separated. The organic layer was dried and concentrated to give the crude product (117 mg), which was purified by FCC (EtOAc/hexanes) to give 550 mg (27%) of a white solid. 1H NMR (400 MHz, CDCl3): 7.65 (s, 1H), 7.34 (s, 1H), 7.07 (d, J=3.1, 1H), 6.45 (d, J=3.1, 1H), 4.85-4.80 (m, 2H), 4.04 (t, J=7.1, 2H), 2.69-2.55 (m, 2H), 2.30-2.21 (m, 2H), 1.85-1.76 (m, 2H), 1.62-1.54 (m, 2H), 1.44 (s, 9H), 1.40-1.18 (m, 3H), 1.03 (dq, J=12.6, 4.4, 2H).

reactant | 1-[3-(1-tert-butoxycarbonyl-piperidin-4-yl)-propyl]-6-chloro-1H-indole-5-carboxylic acid methyl ester | 2.53 mmol, 1.10 g | COC(=O)C=1C=C2C=CN(C2=CC1Cl)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C23H31ClN2O4
reactant | diisobutylaluminum hydride | 5.06 mmol, 1 M, 5.06 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 5.06 mmol, 1 M, 5.06 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
reactant | sodium potassium tartrate | 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 5 mL | CO | CH4O
product | 4-[3-(6-Chloro-5hydroxymethyl-indol-1-yl)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | 550 mg, 27% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C=CC2=CC(=C(C=C12)Cl)CO | C22H31ClN2O3
